US08222269B2
Step 4: N,N-Dimethyl-1-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]methanesulfonamide (Compound 2-4)
1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N,N-dimethylmethanesulfonamide (1.44 g, 3.97 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H pyrazole (1.239 g, 5.95 mmol), tri-t-butylphosphonium tetrafluoroborate (0.104 g, 0.357 mmol), Pd2(dba)3 (0-145 g, 0.159 mmol), and potassium fluoride (0.761 g, 13.10 mmol) were combined as solids and then placed under a nitrogen atmosphere. DMF (39.7 ml) was added and the resulting suspension was heated to 130° C. and left to stir for 1 h. Then, the reaction was cooled to room temperature and partitioned between saturated aqueous sodium hydrogen carbonate (250 mL) and dichloromethane (250 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica (EtOAc+10% MeOH/Hexanes gradient) to afford the title compound as a yellow solid. 1H NMR (600 MHz, DMSO-D6) δ 9.21 (d, 1H); 8.54 (d, 1H); 8.47 (s, 1H); 8.19 (s, 1H); 8.14 (s, 1H); 7.81 (m, 2H); 7.40 (d, 1H); 7.32 (d, 1H); 4.63 (s, 2H); 3.88 (s, 3H); 2.74 (s, 6H). LRMS (APCI) calculated for C21H21N4O3S [M+H]+, 409.1. found 409.1.

reactant | 1-(3-Chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N,N-dimethylmethanesulfonamide | 3.97 mmol, 1.44 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)CS(=O)(=O)N(C)C | C17H15ClN2O3S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H pyrazole | 5.95 mmol, 1.239 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.357 mmol, 0.104 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | potassium fluoride | 13.10 mmol, 0.761 g | [F-].[K+]
catalyst | Pd2(dba)3 | 0.159 mmol, 0-145 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 39.7 ml | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-1-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]methanesulfonamide | CN(S(=O)(=O)CC=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1)C | C21H20N4O3S
